US07671066B2
Preparation of 3,4-dimethoxy-benzoic acid, (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5532)
The compound was obtained starting from 3-cyclopentyloxy-4-methoxy-benzoyl chloride, 3,5-dichloro-4-methylpyridine and 3,4-dimethoxy-benzoyl chloride, following the procedure of Example 24.

reactant | 3-cyclopentyloxy-4-methoxy-benzoyl chloride | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO3
reactant | 3,5-dichloro-4-methylpyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3,4-dimethoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
product | 3,4-dimethoxy-benzoic acid, (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester | COC=1C=C(C(=O)O\C(=C/C2=C(C=NC=C2Cl)Cl)\C2=CC(=C(C=C2)OC)OC2CCCC2)C=CC1OC | C28H27Cl2NO6
